US06747023B1
1,4-Bis(tert-butoxycarbonyl)-2-[3-(thien-2-yl)-2-propenyl]piperazine
In tetrahydrofuran (50 ml) was dissolved 1,4-bis(tert-butoxycarbonyl)-2-formylmethylpiperazine (1.01 g). Under ice cooling, a solution of [(thien-2-yl)methyl]phosphonium (1.62 g) in chloroform (100 ml) was added to the resulting solution, followed by the dropwise addition of 1,8-diazabicyclo[5.4.0]-7-undecene (620 μl). The resulting mixture was stirred at room temperature for 15 hours. The reaction mixture was distilled under reduced pressure. The residue was subjected to chromatography on a silica gel column (hexane:ethyl acetate=9:1 to 2:1), whereby the title compound (1.13 g) was obtained as a pale yellow oil.

reactant | 1,4-bis(tert-butoxycarbonyl)-2-formylmethylpiperazine | 1.01 g | C(C)(C)(C)OC(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)CC=O | C16H28N2O5
reactant | [(thien-2-yl)methyl]phosphonium | 1.62 g | S1C(=CC=C1)C[PH3+]
reactant | 1,8-diazabicyclo[5.4.0]-7-undecene | 620 μl | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 1,4-Bis(tert-butoxycarbonyl)-2-[3-(thien-2-yl)-2-propenyl]piperazine | C(C)(C)(C)OC(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)CC=CC=1SC=CC1 | C21H32N2O4S
